US09421205B2
(b) tert-Butyl 2-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I37)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (0.101 g, 0.464 mmol) was stirred in a 1:1 t-BuOH:1,2-dichloroethane mixture (10 mL) at 0° C. and a 1.0 M ZnCl2 solution in diethyl ether (0.530 mL, 0.530 mmol) was added cautiously over 20 minutes. After addition, the reaction was left stirring at 0° C. for 30 minutes and a solution of tert-butyl 2-(4-aminophenyl)piperidine-1-carboxylate (I36) (0.122 g, 0.441 mmol) in 1:1 t-BuOH:1,2-dichloroethane (4 mL) was added drop-wise over 15 minutes at 0° C. followed by a solution of triethylamine (0.074 μL, 0.530 mmol) in 1:1 t-BuOH:1,2-dichloroethane (4 mL) and the reaction was allowed to warm to room temperature and was stirred for 60 hours. Volatiles were evaporated in vacuo and the resulting residue was suspended in water (40 mL), the suspension was sonicated for 40 minutes and the product was collected by filtration, the solid was washed with water (5×10 mL) and dried under a high vacuum to give the title compound (I37) (0.135 g, 67% yield) as a pale pink solid. LCMS Method C: rt 6.96 min; m/z 455.2, 457.2 M−H]−.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 0.464 mmol, 0.101 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | diethyl ether | 0.530 mmol, 0.530 mL | C(C)OCC | C4H10O
reactant | tert-butyl 2-(4-aminophenyl)piperidine-1-carboxylate | 0.441 mmol, 0.122 g | NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | triethylamine | 0.530 mmol, 0.074 μL | C(C)N(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 2-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 67% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
